US07067515B2
3-bromo-1-benzofuran-2-carbaldehyde (5.49 g, 24.4 mmol) is combined with para-toluene sulfonic acid hydrate (232 mg, 1.2 mmol) and ethylene glycol (2.44 ml, 43.9 mmol) in benzene (75 ml). The reaction is refluxed with a Dean-Stark trap for 5 h. The mixture is cooled to rt and diluted with saturated NaHCO3 solution (20 ml) and left to stir for an additional 12 h. The layers are allowed to separate, and the organic layer is dried over Na2SO4, filtered, and concentrated to afford 6.6 g (100%) of 3-bromo-2-(1,3-dioxolan-2-yl)-1-benzofuran as a dark brown oil. HRMS (FAB) calcd for C11H9BrO3+H: 268.9814, found 268.9821.

reactant | 3-bromo-1-benzofuran-2-carbaldehyde | 24.4 mmol, 5.49 g | BrC1=C(OC2=C1C=CC=C2)C=O | C9H5BrO2
reactant | ethylene glycol | 43.9 mmol, 2.44 ml | C(CO)O | C2H6O2
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
catalyst | para-toluene sulfonic acid hydrate | 1.2 mmol, 232 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-bromo-2-(1,3-dioxolan-2-yl)-1-benzofuran | 6.6 g, 100% | BrC1=C(OC2=C1C=CC=C2)C2OCCO2 | C11H9BrO3
